2161-03-23 06:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 102.0
F - [**2161-3-22**] 08:00 PM
 CALLED OUT
   Allergies:
   Lasix (Oral) (Furosemide)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2161-3-21**] 08:30 AM
   Cefipime - [**2161-3-22**] 11:50 PM
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2161-3-22**] 09:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-3-23**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.5
C (101.3
   HR: 103 (103 - 154) bpm
   BP: 113/55(70) {103/50(69) - 153/78(97)} mmHg
   RR: 19 (17 - 34) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,507 mL
                                                                  1,307 mL
   PO:
             TF:
   IVF:
                                                                  1,507 mL
                                                                  1,307 mL
   Blood products:
   Total out:
                                                                    440 mL
                                                                  1,330 mL
   Urine:
                                                                    440 mL
                                                                  1,330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,067 mL
                                                                    -23 mL
   Respiratory support
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   64 K/uL
   8.2 g/dL
   119 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.1 mEq/L
   4 mg/dL
   105 mEq/L
   136 mEq/L
   24.0 %
   1.2 K/uL
        [image002.jpg]
                             [**2161-3-19**]  09:03 PM
                             [**2161-3-20**]  03:10 AM
                             [**2161-3-20**]  05:16 AM
                             [**2161-3-20**]  09:57 AM
                             [**2161-3-20**]  01:45 PM
                             [**2161-3-20**]  05:56 PM
                             [**2161-3-21**]  02:03 AM
                             [**2161-3-21**]  09:46 AM
                             [**2161-3-22**]  11:42 PM
                             [**2161-3-23**]  05:36 AM
   WBC
   4.1
   3.1
   3.0
   1.4
   1.2
   Hct
   20.5
   22.4
   22.8
   23.9
   24.1
   23.3
   24.8
   24.0
   Plt
   28
   48
   37
   64
   64
   Cr
   0.9
   0.9
   0.8
   0.8
   0.7
   0.7
   0.7
   0.5
   Glucose
   146
   131
   121
   147
   127
   121
   112
   120
   119
   Other labs: PT / PTT / INR:18.9/33.7/1.7, ALT / AST:49/103, Alk Phos /
   T Bili:146/1.9, Amylase / Lipase:/226, Differential-Neuts:55.3 %,
   Lymph:20.2 %, Mono:23.0 %, Eos:0.4 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.9 g/dL, LDH:215 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ELECTROLYTE & FLUID DISORDER, OTHER
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 TACHYCARDIA, OTHER
 HYPOPHOSPHATEMIA (LOW PHOSPHATE)
 ALCOHOL ABUSE
 CIRRHOSIS OF LIVER, ALCOHOLIC
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2161-3-22**] 08:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2161-03-24 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Echo: dilated and hypokinetic right ventricle with sparing of the
   apex. Normal regional and global left ventricular systolic function.
   - CTA done as Echo raised suspicion of PE: no PE although limited by
   motion. Numerous pulmonary nodules.
   - Found to have 2/2 bottles Staph aureus bacteremia; T max 101.8
   overnight, blood cultures drawn again.
   - Start Nadolol tomorrow (unable to initiate today due to low-normal
   BPs).
   Allergies:
   Lasix (Oral) (Furosemide)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2161-3-21**] 08:30 AM
   Vancomycin - [**2161-3-23**] 08:51 PM
   Cefipime - [**2161-3-24**] 02:16 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-3-23**] 08:16 AM
   Carafate (Sucralfate) - [**2161-3-23**] 10:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-3-24**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.7
C (99.9
   HR: 98 (94 - 121) bpm
   BP: 108/58(69) {100/39(53) - 138/100(110)} mmHg
   RR: 17 (15 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  3,682 mL
                                                                    250 mL
   PO:
                                                                  1,540 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  2,142 mL
                                                                    130 mL
   Blood products:
   Total out:
                                                                  4,150 mL
                                                                  1,250 mL
   Urine:
                                                                  4,150 mL
                                                                  1,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -468 mL
                                                                 -1,000 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, RUE with erythema and edema
   resolving, no fluctuance at prior IV site
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x2-3, confused about month, Movement: Not
   assessed, Tone: Not assessed, 5/5 strength in all [**4-25**] extr
   Labs / Radiology
   83 K/uL
   9.6 g/dL
   107 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.9 mEq/L
   4 mg/dL
   104 mEq/L
   136 mEq/L
   28.7 %
   1.7 K/uL
        [image002.jpg]
                             [**2161-3-20**]  09:57 AM
                             [**2161-3-20**]  01:45 PM
                             [**2161-3-20**]  05:56 PM
                             [**2161-3-21**]  02:03 AM
                             [**2161-3-21**]  09:46 AM
                             [**2161-3-22**]  11:42 PM
                             [**2161-3-23**]  05:36 AM
                             [**2161-3-23**]  03:03 PM
                             [**2161-3-23**]  03:04 PM
                             [**2161-3-24**]  01:01 AM
   WBC
   3.0
   1.4
   1.2
   1.7
   Hct
   22.8
   23.9
   24.1
   23.3
   24.8
   24.0
   25.2
   28.7
   Plt
   37
   64
   64
   83
   Cr
   0.8
   0.7
   0.7
   0.7
   0.5
   0.5
   0.7
   Glucose
   147
   127
   121
   112
   120
   119
   118
   107
   Other labs: PT / PTT / INR:17.9/31.0/1.6, ALT / AST:52/92, Alk Phos / T
   Bili:189/1.7, Amylase / Lipase:/226, Differential-Neuts:60.0 %,
   Band:8.0 %, Lymph:22.0 %, Mono:8.0 %, Eos:0.0 %, Lactic Acid:1.1
   mmol/L, Albumin:3.2 g/dL, LDH:215 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.2 mg/dL
   Assessment and Plan
   This is a 49 y/o M w/ h/o etoh cirrhosis with multiple previous
   admissions for UGIB [**2-23**] to [**Doctor First Name **] [**Doctor Last Name **] tear's, and esophagitis now
   represents with hematemsis [**2-23**] to [**Doctor First Name **] [**Doctor Last Name **], but with persistent
   tachycardia and fever of unclear etiology.
   .
   # Fever: No localizing source at this time.  Patient has a h/o mild
   pancytopenia in past, but most recent counts are off baseline.  This
   could suggest sequestration [**2-23**] to liver disease, acute viral
   infection, or malignancy.  Less likely would be medication effect.
   Un-evaluated sources include CNS infection, sinusitis, or prostatitis.
   - Cover with vanc/cefepime for suspected neutropenia
 not neutropenic,
   but was septic and now has [**2-23**] Bld Cx pos for MRSA
   - Check HIV, EBV serologies - pending
   - F/u cultures
   - Trend WBC count - improving
   - TTE showed RV dysfunction and pulm HTN, will get TEE to look for
   vegetations as fever continues
   - continue to trend lactate
 stable at 2.2
   .
   # Tachycardia: Differential includes sepsis, PE, etoh withdrawal,
   hyperthyroid, fever, beri-beri, pain, anxiety and less likely
   GIB/hypovolemia.  Had been on beta-blocker as outpatient so would
   consider beta-blocker withdrawal as well.
   - 5mg IV diazepam [**Hospital1 **]
   - q3H CIWA with ativan
 not [**Doctor Last Name 93**]
   - trend HCT - improving
   - continue carafate
   - TSH - nl
   - CTA chest
 no PE, but small pulm nodules seen
   - follow UOP which currently is at goal.
   - Restarted nadolol
   .
   # Upper GI Bleed: [**2-23**] to severe erosive esophagitis
   - Continue carafate, PPI
   - HCT stable and improving
   - Active type and screen
   .
   # Etoh Cirrhosis: restart nadolol.  10mg IV diazepam given in ED.
   Continue lactulose.
   - CIWA scale with ativan given liver disease.
   - trend LFT's - stable
   .
   # Weakness: Effecting distal muscle groups more than proximal
   suggesting neuropathy.  Check B12, TSH, and continue folate/thiamine.
   - consider EMG/NCS and neuro consult if worsens
 appears to be
   improving
   - CK not elevated
   .
   # Hyponatremia: Unlikely hypovolemic.  Resolved
   .
   # Depression: Restart celexa/seroquel
   .
   # FEN: Clears, IVF, replete electrolytes
   .
   # Prophylaxis: pneumoboots
   .
   # Access: peripherals with 1x 18guage, would like to place PICC when
   afebrile
   .
   # Code: full
   .
   # Communication: Patient
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2161-3-22**] 08:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: